US08349824B2
The product was prepared in the same manner as described in example 1c using 7-bromo-2-(2-fluoropyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine (1.1 g, 3.75 mmol) and tert-butyl carbamate (528 mg, 4.5 mmol) as starting materials. The reaction affords [2-(2-fluoro-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-carbamic acid tert-butyl ester (870 mg, 70.4%), as light yellow solid. MS: m/z=330.1 (M+H+).

reactant | 7-bromo-2-(2-fluoropyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine | 3.75 mmol, 1.1 g | BrC1=CC=2N(C=C1)N=C(N2)C=2C(=NC=CC2)F | C11H6BrFN4
reactant | tert-butyl carbamate | 4.5 mmol, 528 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
product | [2-(2-fluoro-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-carbamic acid tert-butyl ester | 870 mg, 70.4% | C(C)(C)(C)OC(NC1=CC=2N(C=C1)N=C(N2)C=2C(=NC=CC2)F)=O | C16H16FN5O2
